US07820837B2
(6-((3-phenoxybenzyl)oxy)-1,2,3,4-tetrahydro-1-naphthalenyl)acetic acid
To a solution of ethyl (6-((3-phenoxybenzyl)oxy)-1,2,3,4-tetrahydro-1-naphthalenyl)acetate (0.481 g, 1.15 mmol) in a mixed solvent of ethanol (4 mL) and tetrahydrofuran (4 mL) was added 2 M aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 9 hr. Water was added to the reaction mixture, and the mixture was neutralized with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (0.360 g, yield 81%) as colorless needle crystals.

reactant | ethyl (6-((3-phenoxybenzyl)oxy)-1,2,3,4-tetrahydro-1-naphthalenyl)acetate | 1.15 mmol, 0.481 g | O(C1=CC=CC=C1)C=1C=C(COC=2C=C3CCCC(C3=CC2)CC(=O)OCC)C=CC1 | C27H28O4
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2 M, 2 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Water | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (6-((3-phenoxybenzyl)oxy)-1,2,3,4-tetrahydro-1-naphthalenyl)acetic acid | 0.360 g, yield 81% | O(C1=CC=CC=C1)C=1C=C(COC=2C=C3CCCC(C3=CC2)CC(=O)O)C=CC1 | C25H24O4
